US08293754B2
a: Synthesis of 2-(4-tert-butoxycarbonylpiperazin-1-ylmethyl)-5-methyl-4-oxo-3,4-dihydrothieno-[2,3-d]pyrimidine-6-carboxylic acid
436 Milligrams of ethyl 2-(4-tert-butoxycarbonylpiperazin-1-ylmethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate as synthesized in Production Example 21 was suspended in 4 mL of 0.5N sodium hydroxide and stirred at 100° C. for 2 hours. After cooling off, the reaction liquid was neutralized with 1N hydrochloric acid, and the precipitate was recovered by filtration. Drying the same, 377 mg (92%) of the title compound was obtained.

reactant | ethyl 2-(4-tert-butoxycarbonylpiperazin-1-ylmethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1NC(C2=C(N1)SC(=C2C)C(=O)OCC)=O | C20H28N4O5S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 0.5N, 4 mL | [OH-].[Na+]
product | 2-(4-tert-butoxycarbonylpiperazin-1-ylmethyl)-5-methyl-4-oxo-3,4-dihydrothieno-[2,3-d]pyrimidine-6-carboxylic acid | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1NC(C2=C(N1)SC(=C2C)C(=O)O)=O | C18H24N4O5S
